US06103910
a) (R)-1-[3-[[3-[(R)-2-tert-Butoxycarbonyl-pyrrolidin-1-yl]-3-oxo-propyl]-(2-methoxy-ethyl)-amino]-propionyl]-pyrrolidine-2-carboxylic acid tert-butyl ester
A solution of 1.0 g (4.44 mmol) (R)-1-acryloyl-pyrrolidine-2-carboxylic acid tert-butyl ester and 0.19 ml (2.22 mmol) 2-methoxyethylamine in 25 ml acetonitrile was stirred for 16 h at 80° C. Concentration in vacuo and flash chromatography (gradient: 0-10% MeOH in EtOAc) afforded 300 mg (23%) of the title compound as a light brown oil.

reactant | (R)-1-acryloyl-pyrrolidine-2-carboxylic acid tert-butyl ester | 4.44 mmol, 1.0 g | C(C)(C)(C)OC(=O)[C@@H]1N(CCC1)C(C=C)=O | C12H19NO3
reactant | 2-methoxyethylamine | 2.22 mmol, 0.19 ml | COCCN | C3H9NO
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | (R)-1-[3-[[3-[(R)-2-tert-Butoxycarbonyl-pyrrolidin-1-yl]-3-oxo-propyl]-(2-methoxy-ethyl)-amino]-propionyl]-pyrrolidine-2-carboxylic acid tert-butyl ester | 300 mg, 23% | C(C)(C)(C)OC(=O)[C@@H]1N(CCC1)C(CCN(CCOC)CCC(=O)N1[C@H](CCC1)C(=O)OC(C)(C)C)=O | C27H47N3O7
